US07683064B2
2-Methyl-4-(1-methyl-cyclopropyl)-benzoic acid methyl ester (2.75 g, 13.46 mmol) was treated with methanol and 5 M aqueous sodium hydroxide solution (20.46 ml, 102.32 mmol). This solution was heated to 80° C. for 4 hours. The reaction mixture was concentrated until methanol was evaporated. A white solid was obtained. The solid was dissolved in 50 ml water under heating then cooled with an ice bath; acidified with 10 ml conc. hydrochloric acid. A white precipitate was formed; filtered; washed with water; dried under high vacuum over night to yield 2-Methyl-4-(1-methyl-cyclopropyl)-benzoic acid (2.18 g, 11.46 mmol) MS (ESI) 189.1 (M−H)−

reactant | 2-Methyl-4-(1-methyl-cyclopropyl)-benzoic acid methyl ester | 13.46 mmol, 2.75 g | COC(C1=C(C=C(C=C1)C1(CC1)C)C)=O | C13H16O2
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 102.32 mmol, 5 M, 20.46 ml | [OH-].[Na+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 2-Methyl-4-(1-methyl-cyclopropyl)-benzoic acid | 11.46 mmol, 2.18 g | CC1=C(C(=O)O)C=CC(=C1)C1(CC1)C | C12H14O2
